US05300671
Following the procedure described in Example 1b), by reacting 4-[2-[bis(2-chloroethyl)amino]phenyl]butyric acid (J. Org. Chem. 26, 1554, (1961)) with N-hydroxysuccinimide and N-morpholinoethylisonitrile, 4-[2-[bis(2-chloroethyl)amino]phenyl]butyric acid N-hydroxysuccinimido ester is prepared. Said N-hydroxysuccinimido ester is reacted with 4-aminobutane-1,1-diphosphonic acid tetraethyl ester, according to the procedure described in Example 10, to give N-{4-[2-[bis(2-chloroethyl)amino]phenyl]butyroyl}-4-aminobutane-1,1-diphosphonic acid tetraethyl ester, which is reacted with iodotrimethylsilane, following the procedure described in Example 11, to obtain N-{4-[2-[bis(2-chloroethyl)amino]phenyl]butyroyl}-4-aminobutane-1,1-diphosphonic acid disodium salt.

reactant | 4-[2-[bis(2-chloroethyl)amino]phenyl]butyric acid | ClCCN(C1=C(C=CC=C1)CCCC(=O)O)CCCl | C14H19Cl2NO2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | 4-aminobutane-1,1-diphosphonic acid tetraethyl ester | C(C)OP(OCC)(=O)C(CCCN)P(OCC)(=O)OCC | C12H29NO6P2
product | N-{4-[2-[bis(2-chloroethyl)amino]phenyl]butyroyl}-4-aminobutane-1,1-diphosphonic acid tetraethyl ester | C(C)OP(OCC)(=O)C(CCCNC(CCCC1=C(C=CC=C1)N(CCCl)CCCl)=O)P(OCC)(=O)OCC | C26H46Cl2N2O7P2
